US06562811B1
To a solution of methyl 3-(benzyloxy)-2-thiophenecarboxylate (7.85 g, 31.61 mmol) in MeOH (32 mL) and THF (16 mL) was added 2 N NaOH (21 mL), and the mixture was stirred at reflux for 10 hrs, and then concentrated under reduced pressure. The residue was diluted with water, washed with ether. The separated aqueous phase was acidified with 5N HCl. The precipitated solid was collected by filtration, washed with hexane, and dried under reduced pressure at 60° C. to give 3-(benzyloxy)-2-thiophenecarboxylic acid as a yellow solid (6.76 g, yield; 91%).

reactant | methyl 3-(benzyloxy)-2-thiophenecarboxylate | 31.61 mmol, 7.85 g | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)OC | C13H12O3S
reactant | NaOH | 2 N, 21 mL | [OH-].[Na+]
solvent | MeOH | 32 mL | CO | CH4O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 3-(benzyloxy)-2-thiophenecarboxylic acid | 6.76 g, yield; 91% | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)O | C12H10O3S
